US08076336B2
1-(3-Methoxy-5-trifluoromethylphenyl)ethanone
3,N-Dimethoxy-N-methyl-5-trifluoromethylbenzamide (O3.014, 460 mg) was initially charged in THF (15 ml) under at RT Ar dissolved. Thereafter, the mixture was cooled to 0° C., and methylmagnesium bromide (1.5 ml; 3 M in diethyl ether) was added dropwise. Subsequently, the ice bath was removed and the mixture was stirred at RT for 2 h. Then the mixture was admixed with 1 N hydrochloric acid while cooling with ice, diluted with water and extracted three times with EA. The combined EA phases were dried over sodium sulfate, filtered and concentrated. 349 mg of the title compound were isolated.

reactant | 3,N-Dimethoxy-N-methyl-5-trifluoromethylbenzamide | 460 mg | COC=1C=C(C(=O)N(C)OC)C=C(C1)C(F)(F)F | C11H12F3NO3
reactant | methylmagnesium bromide | 3 M, 1.5 ml | C[Mg]Br
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-(3-Methoxy-5-trifluoromethylphenyl)ethanone | 349 mg | COC=1C=C(C=C(C1)C(F)(F)F)C(C)=O | C10H9F3O2
